US08198453B2
The (3R,6R,7aS)-6-(3-chloropropyl)-3-phenyl-dihydropyrrolo[1,2-c]oxazol-5(1H,3H,6H)-one (13.6 g, 47.9 mmol, 1.0 equiv) was dissolved in a mixture of THF (100 mL):formic acid (85%, 62.5 mL):H2O (31 mL) and the solution heated to 40° C. for 3.5 h. After this time the animal was consumed and the desired alcohol was contaminated with varying amounts of the formate ester. The solution was evaporated using a rotory evaporator, maintaining the bath temperature below 25° C. A solution of 1.9 M LiOH was added to the residue till a pH>12 was achieved and the mixture stirred for 20 min. After this time no formate ester was observed. EtOAc (250 mL was added and the mixture transferred to a separatory funnel. The layers were separated and the aqueous layer was extracted with 4×50 mL of EtOAc. The combined extracts were dried over Na2SO4, filtered and evaporated. Hexanes (˜200 mL) were added to the residue and the biphasic mixture heated to ˜40° C. The hexanes were decanted off and the procedure repeated twice. The resulting syrup was placed on a vacuum line where it solidified to yield (3R,5S)-3-(3-chloropropyl)-5-(hydroxymethyl)pyrrolidin-2-one as an off-white solid (7.51 g 82% yield). An additional 0.80 g of material may be obtained by saturating the above aqueous solution with NaCl and extracting with 4×50 mL of CH2Cl2.

reactant | (3R,6R,7aS)-6-(3-chloropropyl)-3-phenyl-dihydropyrrolo[1,2-c]oxazol-5(1H,3H,6H)-one | 47.9 mmol, 13.6 g, 1.0 equiv | ClCCC[C@@H]1C[C@@H]2N([C@H](OC2)C2=CC=CC=C2)C1=O | C15H18ClNO2
reactant | formic acid | 62.5 mL | C(=O)O | CH2O2
reactant | H2O | 31 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3R,5S)-3-(3-chloropropyl)-5-(hydroxymethyl)pyrrolidin-2-one | 82% yield | ClCCC[C@H]1C(N[C@@H](C1)CO)=O | C8H14ClNO2
